US07323475B2
a) 1-Bromo-4-hydroxy-isoquinoline-3-carboxylic acid
A mixture of 1-bromo-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester (8.18 g, 25 mmol; Example D-28 a) aqueous 2N NaOH (80 ml, 160 mmol) and EtOH (80 ml) was refluxed with stirring for 2 h. Then the solution was concentrated in vacuo to ½ of its volume, diluted with water (200 ml), and was acidified by addition of concentrated aqueous HCl. After stirring at ambient temperature for 1 h the resulting suspension was submitted to vacuum filtration. The filter cake was washed thoroughly with water and dried in vacuo at 75° C. to give the title compound as a white solid (6.10 g); 1H NMR (DMSO-d6): δ=8.30 to 8.37 (m, 1H), 8.16 to 8.22 (m, 1H), 7.93 to 8.03 (m, 2H).

reactant | 1-bromo-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)Br | C14H14BrNO3
reactant | NaOH | 160 mmol, 2N, 80 ml | [OH-].[Na+]
solvent | EtOH | 80 ml | CCO | C2H6O
product | 1-Bromo-4-hydroxy-isoquinoline-3-carboxylic acid | 6.10 g | BrC1=NC(=C(C2=CC=CC=C12)O)C(=O)O | C10H6BrNO3
